US05153226
(S)-N-[2,6-bis(1-Methylethyl)phenyl]-2-[(diphenylmethyl)amino]propanamide
A solution of (S)-2-amino-N-[2,6-bis(1-Methylethyl)phenyl]propanamide (5.0 g, 20 mmol), benzhydryl bromide (5.0 g, 20 mmol), and triethylamine (2.8 mL, 20 mmol) in acetonitrile (100 mL) was heated under reflux for 5 hours. The resulting solution was cooled (25° C.) and concentrated in vacuo. The residue was taken up in ethyl acetate (300 mL), washed with water (1×100 mL), washed with saturated sodium bicarbonate (1×100 mL), washed with brine (1×100 mL), then dried (MgSO4) and concentrated in vacuo. The resulting solid was recrystallized from ether/hexane to yield 4.77 g (57.1%) of the title compound as fine white needles, mp 134°-138.5° C.

reactant | (S)-2-amino-N-[2,6-bis(1-Methylethyl)phenyl]propanamide | 20 mmol, 5.0 g | N[C@H](C(=O)NC1=C(C=CC=C1C(C)C)C(C)C)C | C15H24N2O
reactant | benzhydryl bromide | 20 mmol, 5.0 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)Br | C13H11Br
reactant | triethylamine | 20 mmol, 2.8 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | (S)-N-[2,6-bis(1-Methylethyl)phenyl]-2-[(diphenylmethyl)amino]propanamide | 4.77 g, 57.1% | CC(C)C1=C(C(=CC=C1)C(C)C)NC([C@H](C)NC(C1=CC=CC=C1)C1=CC=CC=C1)=O | C28H34N2O
